### PR TITLE
Update to Lean v4.22.0

### PR DESCRIPTION
**Pull request by Coda-Coda**
The full test suite has been run and the same tests pass as on Lean `v4.18.0-rc1`.

### CODE REVIEW

File: EvmYul/Semantics.lean [hunk 1]
```diff
@@ -146,24 +146,24 @@ private def dispatchLog1 (τ : OperationType) : Transformer τ :=
...
-    | .EVM => EVM.log4Op 
+    | .EVM => EVM.log4Op
     | .Yul => Yul.log4Op
 
 private def L (n : ℕ) := n - n / 64
 
 -- TODO: Yul halting for `SELFDESTRUCT`, `RETURN`, `REVERT`, `STOP`
 def step {τ : OperationType} (op : Operation τ) : Transformer τ := Id.run do
-  let log : Id Unit :=
+  let _ : Id Unit := -- log
```
Comment (andreiburdusa) [inline EvmYul/Semantics.lean:166]: Did you forget to remove `-- log`?

File: EvmYul/UInt256.lean [hunk 2]
```diff
@@ -307,7 +312,7 @@ private lemma toBytes'_le {k : ℕ} (h : n < 2 ^ (8 * k)) : (toBytes' n).length
     | .zero => simp [toBytes']
     | .succ n =>
       unfold toBytes'
-      simp [Nat.succ_le_succ_iff]
+      simp []
```
Comment (andreiburdusa) [inline EvmYul/UInt256.lean:315]:
```suggestion
      simp
```

**Review by andreiburdusa — APPROVED** [review]

**Review by andreiburdusa — APPROVED** [review]
